US08871792B2
(R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-phosphonooxypropionic Acid
(R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxy-propionic acid (12.0 mg, 22.7 μmol) in EtOH (80 μL, 1.4 mmol) was combined with a solution of 4.0 M HCl in 1,4-dioxane (227 μL, 909 mmol), and the resulting mixture was stirred at room temperature for 1 hour. The solvent was removed in vacuo and the residue was dissolved in pyridine (20 μL, 250 mmol). The resulting solution was added to a solution of phosphoryl chloride (19 μL, 0.2 mmol) in acetone (67 μL, 0.9 mmol) and stirred at room temperature for 10 minutes. The solvent was removed in vacuo and the residue was dissolved in EtOH (80 μL, 1.4 mmol). A solution of 1.0 M LiOH in water (1.4 mL, 1.4 mmol) was then added until the pH reached-12. The mixture was stirred for 1 hour and the solvent was removed in vacuo. The residue was purified by preparative HPLC to yield the title compound (5 mg). MS m/z [M+H]+ calc'd for C26H21ClF2N3O8P, 608.07. found 608.0.

reactant | (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxy-propionic acid | 22.7 μmol, 12.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)O)F | C26H20ClF2N3O5
reactant | EtOH | 1.4 mmol, 80 μL | CCO | C2H6O
reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 909 mmol, 227 μL | O1CCOCC1 | C4H8O2
reactant | pyridine | 250 mmol, 20 μL | N1=CC=CC=C1 | C5H5N
reactant | phosphoryl chloride | 0.2 mmol, 19 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetone | 0.9 mmol, 67 μL | CC(=O)C | C3H6O
reactant | EtOH | 1.4 mmol, 80 μL | CCO | C2H6O
reactant | LiOH | 1.0 M | [Li+].[OH-]
reactant | water | 1.4 mmol, 1.4 mL | O | H2O
product | (R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-phosphonooxypropionic Acid | 5 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)OP(=O)(O)O)F | C26H21ClF2N3O8P
